US07157464B2
Synthesis of 3-Heptafluoropropyl-5-methyl-1H-pyrazol-4-ylamine
To a suspension of zinc dust (1.5 g) in glacial acetic acid (10 mL) was added drop-wise, a solution of 3-Heptafluoropropyl-5-methyl-4-nitro-1H-pyrazole (0.295 g, 1.0 mmol) in glacial acetic acid (5 mL). The reaction mixture was then allowed to stir at room temperature for 14 h. The zinc salts were then removed by filtration and the residue washed with ethyl acetate. The combined organic extract was concentrated in vaccum, re-dissolved in CHCl3, washed with NaHCO3, water and brine. Finally the organic layer was dried with Na2SO4 and solvent evaporated to give the title compound as white solid.

reactant | 3-Heptafluoropropyl-5-methyl-4-nitro-1H-pyrazole | 1.0 mmol, 0.295 g | FC(C(C1=NNC(=C1[N+](=O)[O-])C)(F)F)(C(F)(F)F)F | C7H4F7N3O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.5 g | [Zn] | Zn
product | 3-Heptafluoropropyl-5-methyl-1H-pyrazol-4-ylamine | FC(C(C1=NNC(=C1N)C)(F)F)(C(F)(F)F)F | C7H6F7N3
